US05716624
(a) Preparation of methyl 2-hydroxy-4-[3-oxo-3-(4,4-dimethylthiochroman-6-yl)-1-propynyl]benzoate
2 g (5.2 mmol) of methyl 2-hydroxy-4-[3-hydroxy-3-(4,4-dimethylthiochroman-6-yl)-1-propynyl]benzoate and 50 ml of dichloromethane were introduced into a round-bottomed flask. 2.6 g (6.9 mmol) of pyridinium dichromate were added and stirring was carried out at room temperature for 8 hours. The reaction mixture was evaporated to dryness and the residue obtained purified by chromatography on a silica column eluted with a mixture of dichloromethane and hexane (50/50). After evaporating the solvents, 1.3 g (65%) of the expected ester was recovered in the form of a brown oil.

reactant | methyl 2-hydroxy-4-[3-hydroxy-3-(4,4-dimethylthiochroman-6-yl)-1-propynyl]benzoate | 5.2 mmol, 2 g | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C=1C=C2C(CCSC2=CC1)(C)C)O | C22H22O4S
reactant | pyridinium dichromate | 6.9 mmol, 2.6 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | methyl 2-hydroxy-4-[3-oxo-3-(4,4-dimethylthiochroman-6-yl)-1-propynyl]benzoate | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C=1C=C2C(CCSC2=CC1)(C)C)=O | C22H20O4S
